US07776882B2
To a solution of 3-((S)-1-cyclohexyl-but-3-enyl)-6-phenoxy-quinolin-2-ylamine (0.82 g, 2.2 mmol) in tetrahydrofuran (5.5 mL) at −20° C. was added 9-BBN (0.5 M in THF, 17.6 mL, 8.8 mol) dropwise over 20 min. The reaction mixture was stirred overnight while it reached room temperature. To the reaction mixture at 0° C. was then added aqueous 1N NaOH solution (8.2 mL) and aqueous 30% H2O2 solution (8.2 mL) and stirring was continued for 2.0 h. Water (15.0 mL) was added to the reaction mixture which was then extracted with EtOAc. The separated organic layer was dried (MgSO4) and concentrated in vacuo to yield crude material. The crude material was purified by silica gel column chromatography using 10% MeOH in CHCl3 to yield 4-(2-amino-6-phenoxy-quinoline-3-yl)-4-(S)-cyclohexyl-butan-1-ol.

reactant | 3-((S)-1-cyclohexyl-but-3-enyl)-6-phenoxy-quinolin-2-ylamine | 2.2 mmol, 0.82 g | C1(CCCCC1)[C@H](CC=C)C=1C(=NC2=CC=C(C=C2C1)OC1=CC=CC=C1)N | C25H28N2O
reactant | 9-BBN | 8.8 mol, 0.5 M, 17.6 mL | B1C2CCCC1CCC2 | C8H15B
reactant | NaOH | 1N, 8.2 mL | [OH-].[Na+]
reactant | H2O2 | 8.2 mL | OO | H2O2
solvent | tetrahydrofuran | 5.5 mL | O1CCCC1 | C4H8O
solvent | Water | 15.0 mL | O | H2O
product | 4-(2-amino-6-phenoxy-quinoline-3-yl)-4-(S)-cyclohexyl-butan-1-ol | NC1=NC2=CC=C(C=C2C=C1[C@@H](CCCO)C1CCCCC1)OC1=CC=CC=C1 | C25H30N2O2
